US07563805B2
(3S)-3-(tert-Butoxycarbonylamino)-3-fluoromethyl-4-methylpyrrolidine
To a solution of (3S)-3-(tert-butoxycarbonylamino)-3-fluoromethyl-4-methyl-1-[(1R)-1-phenylethyl]pyrrolidine (200 mg, 0.594 mmol) in ethanol (12 mL) was added 10% palladium-carbon catalyst (containing 52.8% water, 200 mg), and the suspension was stirred in an oil bath at 40° C. for 2 hours in hydrogen gas atmosphere. After removing the catalyst by filtration, the solvent was removed by distillation under reduced pressure to obtain 150 mg (quantitative) of the crude title compound as a white solid.

reactant | (3S)-3-(tert-butoxycarbonylamino)-3-fluoromethyl-4-methyl-1-[(1R)-1-phenylethyl]pyrrolidine | 0.594 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@@]1(CN(CC1C)[C@H](C)C1=CC=CC=C1)CF | C19H29FN2O2
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | hydrogen | [H][H] | H2
product | (3S)-3-(tert-Butoxycarbonylamino)-3-fluoromethyl-4-methylpyrrolidine | C(C)(C)(C)OC(=O)N[C@@]1(CNCC1C)CF | C11H21FN2O2
